US08709615B2
Synthesis of 2-(dibenzo[b,d]furan-4-yl)-4,5-dimethylpyridine
5-Bromo-2-(dibenzo[b,d]furan-4-yl)-4-methylpyridine (28.7 g, 85 mmol), dicyclohexyl(2′,6′-dimethoxy-[1,1′-biphenyl]-2-yl)phosphine (1.394 g, 3.39 mmol) and potassium phosphate monohydrate (58.6 g, 255 mmol) were added to toluene (500 mL) and water (50 mL) and degassed for 20 min. Trimethylboroxine (14.83 mL, 106 mmol) and Pd2(dba)3 (0.777 g, 0.849 mmol) were added and the reaction mixture heated to reflux overnight. After cooling, the organic layer was separated and the aqueous layer extracted 3×50 mL with EtOAc, dried over sodium sulfate and evaporated. The crude product was chromatographed on silica gel with 8/2 (v/v) dichloromethane/EtOAc in hexane to give 19.2 g of an off-white solid, which was recrystallized from hexane to give 16.8 g (83%) of the product as white needles. The product was confirmed by NMR and HPLC (99.97% pure).

reactant | 5-Bromo-2-(dibenzo[b,d]furan-4-yl)-4-methylpyridine | 85 mmol, 28.7 g | BrC=1C(=CC(=NC1)C1=CC=CC2=C1OC1=C2C=CC=C1)C | C18H12BrNO
reactant | potassium phosphate monohydrate | 255 mmol, 58.6 g | O.P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
reactant | Trimethylboroxine | 106 mmol, 14.83 mL | CB1OB(OB(O1)C)C | C3H9B3O3
catalyst | Pd2(dba)3 | 0.849 mmol, 0.777 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | dicyclohexyl(2′,6′-dimethoxy-[1,1′-biphenyl]-2-yl)phosphine | 3.39 mmol, 1.394 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
solvent | water | 50 mL | O | H2O
product | 2-(dibenzo[b,d]furan-4-yl)-4,5-dimethylpyridine | 19.2 g | C1=CC=C(C=2OC3=C(C21)C=CC=C3)C3=NC=C(C(=C3)C)C | C19H15NO
